US07598423B2
Synthesis of (4-bromo-benzyloxy)-triisopropyl-silane
Stir a solution of 4-bromobenzyl alcohol (50 g, 267.3 mmol), DBU (48 ml, 320.8 mmol) and dichloromethane (600 mL) in an ice/water bath. Add triisopropylsilylchloride (63 mL, 294 mmol) over 10 min via an addition funnel and stir the reaction mixture for 20 hours at room temperature. Wash the mixture with water (2×600 mL), dry over anhydrous magnesium sulfate, filter and concentrate. Purify the residue via silica chromatography eluting with 9:1 hexanes:ethyl acetate to give the title compound (91.5 g, 99%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.47-7.50 (m, 2H), 7.28-7.30 (m, 2H), 4.81 (s, 1.11-1.24 (m, 21H).

reactant | 4-bromobenzyl alcohol | 267.3 mmol, 50 g | BrC1=CC=C(CO)C=C1 | C7H7BrO
reactant | DBU | 320.8 mmol, 48 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triisopropylsilylchloride | 294 mmol, 63 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
solvent | dichloromethane | 600 mL | ClCCl | CH2Cl2
product | (4-bromo-benzyloxy)-triisopropyl-silane | 91.5 g, 99% | BrC1=CC=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C1 | C16H27BrOSi
